US07989457B2
1-[6-(4-Trifluoromethyl-phenoxy)-pyridin-3-yl]-heptan-1-one (1.45 g, 4.13 mmol) is dissolved into denatured ethanol (20 mL) at room temperature then cooled to 0° C. in an ice bath. Sodium borohydride (0.132 g, 4.13 mmol) is then carefully added in small portions. The reaction is allowed to warm slowly to room temperature and is monitored by HPLC. Upon complete consumption of starting material, the reaction is carefully quenched with water and diluted with ethyl acetate. The ethanol is removed and the residue is extracted with ethyl acetate, washed, dried, and concentrated. The 1-[6-(4-trifluoromethyl-phenoxy)-pyridin-3-yl]-heptan-1-ol (1.29 g, 3.65 mmol, 88%), is obtained in purified form after flash column chromatography.

reactant | 1-[6-(4-Trifluoromethyl-phenoxy)-pyridin-3-yl]-heptan-1-one | 4.13 mmol, 1.45 g | FC(C1=CC=C(OC2=CC=C(C=N2)C(CCCCCC)=O)C=C1)(F)F | C19H20F3NO2
reactant | Sodium borohydride | 4.13 mmol, 0.132 g | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-[6-(4-trifluoromethyl-phenoxy)-pyridin-3-yl]-heptan-1-ol | 3.65 mmol, 1.29 g, 88% | FC(C1=CC=C(OC2=CC=C(C=N2)C(CCCCCC)O)C=C1)(F)F | C19H22F3NO2
